** sch_path: /home/user/Desktop/myfolder/project/rf/rf_transmitter/5ghz/5g_vco_div_v3_no_lpf.sch
**.subckt 5g_vco_div_v3_no_lpf
XM10 out1 out2 iout_vco GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=5 m=5
XM11 out2 out1 iout_vco GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=5 m=5
XM12 vcont out1 vcont GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM13 vcont out2 vcont GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
C3 vdd out2 200f
R6 vdd out2 91
L3 vdd out2 0.5n
C4 vdd out1 200f
R7 vdd out1 91
L4 vdd out1 0.5n
XM14 buff_out2 out2 iout_10m GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XM15 buff_out1 out1 iout_10m GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
R8 vdd buff_out2 100
R9 vdd buff_out1 100
XM1 cm cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
R1 vdd cm 1150
XM2 iout_vco cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=5 m=5
XM4 iout_10m cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=5 m=5
XM22 buff_out4 q3_bar iout_10m_b2 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XM23 buff_out3 q3 iout_10m_b2 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
R11 vdd buff_out4 100
R12 vdd buff_out3 100
XM24 iout_10m_b2 cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=5 m=5
XM27 iout_10m_b3 cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=5 m=5
XM28 q q_bar net1 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=99.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM29 q_bar q net1 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM30 q d_bar net2 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM31 q_bar d net2 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
R20 vdd q_bar 100
R27 vdd q 100
XM32 net2 buff_out1 iout_10m_q11 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM57 net1 buff_out2 iout_10m_q11 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM58 d d_bar net3 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=99.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM59 d_bar d net3 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM60 d q net4 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM61 d_bar q_bar net4 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
R28 vdd d_bar 100
R29 vdd d 100
XM62 net4 buff_out2 iout_10m_q12 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM63 net3 buff_out1 iout_10m_q12 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM64 q2 q2_bar net5 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=99.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM65 q2_bar q2 net5 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM66 q2 d2_bar net6 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM67 q2_bar d2 net6 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
R31 vdd q2_bar 100
R32 vdd q2 100
XM68 net6 q iout_10m_q21 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM69 net5 q_bar iout_10m_q21 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM70 d2 d2_bar net7 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=99.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM71 d2_bar d2 net7 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM72 d2 q2 net8 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM73 d2_bar q2_bar net8 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
R33 vdd d2_bar 100
R34 vdd d2 100
XM74 net8 q_bar iout_10m_q22 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM75 net7 q iout_10m_q22 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM76 q3 q3_bar net9 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=99.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM77 q3_bar q3 net9 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM78 q3 d3_bar net10 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM79 q3_bar d3 net10 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
R36 vdd q3_bar 100
R37 vdd q3 100
XM80 net10 q2 iout_10m_q31 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM81 net9 q2_bar iout_10m_q31 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM82 d3 d3_bar net11 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=99.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM83 d3_bar d3 net11 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM84 d3 q3 net12 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM85 d3_bar q3_bar net12 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
R38 vdd d3_bar 100
R39 vdd d3 100
XM86 net12 q2_bar iout_10m_q32 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM87 net11 q2 iout_10m_q32 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=100 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 iout_10m_q11 cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM5 iout_10m_q12 cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM6 iout_10m_q21 cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM7 iout_10m_q22 cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM8 iout_10m_q31 cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM9 iout_10m_q32 cm GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
**** begin user architecture code


.param mc_mm_switch=0
.lib '/home/user/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice'ff


.temp -40

VDD VDD GND 1.8

*if vdd decreases because of comsumption power

*VDD VDD GND 1.4

Vvcont vcont GND 0.4

*Vvcont vcont GND SIN(0.4 0.02 1000000)

.nodeset v(q)=1.5 v(q_bar)=1.9 v(net2)=1.9 v(net3)=1.5


*Vclk     clk     GND SIN(0.9 0.5 5.6e9 0 0 90)
*Vclk_bar clk_bar GND SIN(0.9 0.5 5.6e9 0 0 270)
*Vclk     clk     GND DC 1.2
*Vclk_bar clk_bar GND DC 0.6


.control


op
print v(q) v(q_bar) v(net2) v(net3) v(d) v(d_bar)
write divider.raw


tran 10p 2u
wrdata w50_wave.txt v(buff_out1) v(q3)



plot v(buff_out1) v(buff_out2) xlimit 1u 1.0005u
plot v(out1) v(out2) xlimit 1u 1.0005u



plot  v(q) xlimit 1e-9 1.5e-9

plot v(q) v(q2) xlimit 1e-9 2.5e-9
plot  v(q2) xlimit 1e-9 2.5e-9
plot  v(q3) v(q2) xlimit 1e-9 4e-9
plot  v(buff_out3) v(q3) xlimit 1e-9 4e-9
plot  v(buff_out3) xlimit 1e-9 4e-9

plot  v(buff_out3) xlimit 10e-9 20e-9

*wrdata final_waveform_out1out2.txt v(clk) v(q) v(q_bar)

*meas tran clk_period trig v(clk) val=0.9 rise=1 targ v(clk) val=0.9 rise=2
*meas tran q_period trig v(q) val=1.5 rise=1 targ v(q) val=1.5 rise=2
*print clk_period
*print q_period

linearize  q q2 q3 buff_out3  out1 buff_out1
fft  q q2 q3 buff_out3 out1 buff_out1
wrdata fft_result.txt mag(clk) mag(q)
*plot mag(clk) xlimit 1e9 8e9
plot mag(q) xlimit 1e9 8e9
plot mag(q2) xlimit 1e9 8e9
plot mag(q3) xlimit 0.3e9 5e9
plot mag(q3) xlimit 0.6e9 1e9
plot mag(buff_out3) xlimit 0e9 8e9
plot mag(buff_out3) xlimit 0.6e9 1e9
plot mag(out1) xlimit 4e9 7e9
plot mag(buff_out1) xlimit 4e9 7e9




.endc

**** end user architecture code
**.ends
.GLOBAL GND
.end
